### PR TITLE
Define (abelian) monoids and groups via displayed categories

### PR DESCRIPTION
**Pull request by arnoudvanderleer**
Replaces the definitions of four algebraic catgories via displayed categories, defines their objects based on that, and replaces `monoidfun` by the relevant construct in a couple of places.

### CODE REVIEW

**Comment by arnoudvanderleer** [comment]
A couple of notes:
 - It seems that the filename change from `Gr` to `Group` and `Abgr` to `AbelianGroup` caused the history to be lost. Do we want me to fix that (and how?)
 - I will file corresponding PRs in a couple of satellite repositories.
 - I disabled the univalence proof of ring modules, because that is currently broken and it might benefit from the displayed technology as well.
 - There is a couple of things that wanted to change, but did not do, to keep this PR reasonably "small":
   + Update the definition of `PreAdditive` to work with abelian group morphisms, instead of monoidfuns.
   + Update the definitions of monoidiso, monoidmono etc. to match the category theoretical constructs, together with some constructors and accessors that match the nice, old notions.

**Comment by nmvdw** [comment]
The builds for 'Schools' are failing

**Comment by arnoudvanderleer** [comment]
@nmvdw Yes, that should be resolved with the current open PR in Schools

File: UniMath/CategoryTheory/Categories/AbelianGroup.v [hunk 1]
```diff
@@ -0,0 +1,1210 @@
...
+
+Section abgr_monics_and_epis.
+
+(** ** 4.1. Epis are surjections *)
+
+  Context {A B : abgr}.
+  Context (f : abelian_group_morphism A B).
+
+  Definition abgr_epi_hfiber_inhabited
+              (isE : isEpi f) (b : B)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Categories/AbelianGroup.v:613]: indenting inconsistent

File: UniMath/CategoryTheory/Categories/AbelianGroup.v [hunk 2]
```diff
@@ -0,0 +1,1210 @@
...
+        refine (! binopfunisbinopfun f a1 (-a1) @ _).
+        refine (maponpaths f (grrinvax A a1) @ _).
+        rewrite H.
+        refine (_ @ binopfunisbinopfun f a2 (-a2)).
+        refine (_ @ !maponpaths f (grrinvax A a2)).
+        reflexivity.
+      }
+      induction e. reflexivity.
+  Qed.
+  Transparent nat_to_monoid_fun.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Categories/AbelianGroup.v:669]: Is this line necessary?

File: UniMath/CategoryTheory/Categories/AbelianGroup.v [hunk 3]
```diff
@@ -0,0 +1,1210 @@
...
+  Context (isE : isEpi f).
+
+  Definition abgr_epi_cokernel_out_kernel_hsubtype (a : A)
+             (H : f a = 0) : abgr_kernel_hsubtype f.
+  Proof.
+    exact (a,, H).
+  Defined.
+
+  Lemma abgr_epi_cokernel_out_data_eq {C : abgr}
+         (h : abelian_group_morphism A C)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Categories/AbelianGroup.v:911]: indenting inconsistent

File: UniMath/Algebra/Modules/Core.v [hunk 4]
```diff
@@ -128,37 +125,35 @@ Local Close Scope abgr_scope.
...
+  intro f.
+  apply (@make_monoidfun G G (λ x : G, grinv G (pr1setofendabgr f x))).
+  apply make_dirprod.
+  - intros x x'.
+    rewrite (setofendabgr_to_isbinopfun f).
+    rewrite (grinvop G).
+    apply (commax G).
+  - rewrite (setofendabgr_to_unel f).
+    apply (grinvunel G).
 Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:137]: Should this be `Qed`? or are abstracts needed?

File: UniMath/Algebra/Modules/Core.v [hunk 5]
```diff
@@ -128,37 +125,35 @@ Local Close Scope abgr_scope.
...
-   intro f.
-   use total2_paths_f.
-   - apply funextfun. intro x.
-     apply (grlinvax G).
-   - apply isapropismonoidfun.
+  intro f.
+  apply monoidfun_paths.
+  apply funextfun. intro x.
+  apply (grlinvax G).
 Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:148]: `Qed`

File: UniMath/Algebra/Modules/Core.v [hunk 6]
```diff
@@ -128,37 +125,35 @@ Local Close Scope abgr_scope.
...
-   intro f.
-   use total2_paths_f.
-   - apply funextfun. intro x.
-     apply (grrinvax G).
-   - apply isapropismonoidfun.
+  intro f.
+  apply monoidfun_paths.
+  apply funextfun. intro x.
+  apply (grrinvax G).
 Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:157]: `Qed`

File: UniMath/Algebra/Modules/Core.v [hunk 7]
```diff
@@ -174,11 +169,10 @@ Proof. exact (make_isgrop ismonoidop_ringofendabgr_op1 invstruct_setofendabgr_in
...
-   intros f g.
-   use total2_paths_f.
-   - apply funextfun. intro x.
-     apply (commax G).
-   - apply (isapropismonoidfun).
+  intros f g.
+  apply monoidfun_paths.
+  apply funextfun. intro x.
+  apply (commax G).
 Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:176]: `Qed`

File: UniMath/Algebra/Modules/Core.v [hunk 8]
```diff
@@ -189,33 +183,30 @@ Proof. exact (make_isabgrop isgrop_ringofendabgr_op1 iscomm_ringofendabgr_op1).
 Lemma isassoc_ringofendabgr_op2 {G : abgr} : isassoc (@ringofendabgr_op2 G).
 Proof.
   intros f g h.
-  use total2_paths_f.
-  - apply funcomp_assoc.
-  - apply isapropismonoidfun.
+  apply monoidfun_paths.
+  reflexivity.
 Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:188]: `Qed`

File: UniMath/Algebra/Modules/Core.v [hunk 9]
```diff
@@ -398,21 +387,17 @@ Proof.
...
+    + apply monoidfun_paths.
+      apply funextfun. intro x. change (m ringunel1 x = unel G). apply (grlcan G (m (ringunel1) x)).
+      rewrite runax. rewrite <- (ax2 ringunel1 ringunel1 x). rewrite ringrunax1. apply idpath.
+  - apply make_dirprod.
+    + intros r s.
+      apply monoidfun_paths.
+      apply funextfun. intro x. apply ax3.
+    + apply monoidfun_paths.
+      apply funextfun. intro x. apply ax4.
 Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:401]: `abstract` can be used here

**Review by nmvdw — APPROVED** [review]
lgtm

I only have small comments

File: UniMath/Algebra/AbelianGroups.v [hunk 10]
```diff
@@ -51,6 +63,101 @@ Delimit Scope abgr with abgr.
...
+      apply setproperty.
+    - apply impred_isaprop.
+      intro.
+      apply setproperty.
+  }
+  apply binopfun_paths.
+  exact H.
+Qed.
+
+Definition abelian_group_morphism_eq
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/Algebra/AbelianGroups.v:125]: What would the simplified version look like?

File: UniMath/CategoryTheory/Categories/AbelianGroup.v (hunk 1 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Categories/AbelianGroup.v:613]: What do you mean?

File: UniMath/CategoryTheory/Categories/AbelianGroup.v (hunk 2 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Categories/AbelianGroup.v:669]: I don't know, actually. This was here already.

File: UniMath/Algebra/Modules/Core.v (hunk 4 above)
Comment (arnoudvanderleer) [reply UniMath/Algebra/Modules/Core.v:137]: It defines a monoidfun, but indeed, it needs `abstract`s.

File: UniMath/Algebra/AbelianGroups.v (hunk 10 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/Algebra/AbelianGroups.v:125]: It is nicer to use `weqimplimpl` instead of `weq_iso`

**Comment by nmvdw** [comment]
The documentation style of this PR currently doesn't meet the style guide.

**Comment by arnoudvanderleer** [comment]
@nmvdw Is this mergeable?

**Comment by nmvdw** [comment]
> @nmvdw Is this mergeable?

Yes
